US08497368B2
1-[3-(5,7-Difluoro-quinolin-6-ylmethyl)-[1,2,4]-triazolo[4,3-b]pyridazin-6-yl]ethanone (40.4)
Aqueous 3N HCl (0.2 mL, 0.6 mmol) was added to a solution of 6-[6-(1-ethoxy-vinyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-5,7-difluoro-quinoline (87 mg, 0.237 mmol) in HOAc (2 mL). The reaction mixture was stirred at 40° C. for 6 h. LC/MS showed reaction was complete. The solvent was removed in vacuo, and the residue dissolved in EtOAc was neutralized, and extracted with EtOAc. The organic layer was dried, concentrated and purified by flash chromatography to afford 40 mg of the title compound as pale yellow solid. 1H-NMR (400 MHz, MeOH-d4) δ ppm 8.95 (dd, 1H), 8.56 (d, 1H), 8.29 (d, 1H), 7.85 (d, 1H), 7.60-7.67 (m, 2H), 4.94 (s, 2H), 2.67 (s, 3H). LCMS (method A): [MH]+=339, tR=4.88 min.

reactant | HCl | 0.6 mmol, 3N, 0.2 mL | Cl | ClH
reactant | 6-[6-(1-ethoxy-vinyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-5,7-difluoro-quinoline | 0.237 mmol, 87 mg | C(C)OC(=C)C=1C=CC=2N(N1)C(=NN2)CC=2C(=C1C=CC=NC1=CC2F)F | C19H15F2N5O
solvent | HOAc | 2 mL | CC(=O)O | C2H4O2
product | 1-[3-(5,7-Difluoro-quinolin-6-ylmethyl)-[1,2,4]-triazolo[4,3-b]pyridazin-6-yl]ethanone | 40 mg | FC1=C2C=CC=NC2=CC(=C1CC1=NN=C2N1N=C(C=C2)C(C)=O)F | C17H11F2N5O
